US07749992B2
Step 3. Preparation of (+/−)N-(3,5-Bis-trifluoromethyl-benzyl)-N-[1-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide
To a solution of (+/−) (3,5-Bis-trifluoromethyl-benzyl)-[1-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-amine (149 mg, 0.27 mmol) and pyridine (0.33 ml, 4 mmol) in dichloromethane (1.5 ml) at room temperature is added acetic anhydride (0.38 ml, 4.1 mmol) via dropwise addition over 2 minutes. The mixture is stirred at room temperature for 20 hours. The mixture is treated with 1N aqueous NaOH (4 ml) and stirred for 10 minutes, then diluted with 1N HCl (15 ml) and dichloromethane (15 ml). The organic layer is washed with water, dried (Na2SO4), and concentrated to a solid. Purification by silica gel column chromatography (eluent, 35% ethyl acetate in hexanes) gives the title compound as a solid. Mass spectrum (ES+): 585 (M+H).

reactant | (+/−) (3,5-Bis-trifluoromethyl-benzyl)-[1-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-amine | 0.27 mmol, 149 mg | FC(C=1C=C(CNC2C3=C(N(CCC2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC=C3)C=C(C1)C(F)(F)F)(F)F | C26H24F6N2O2S
reactant | pyridine | 4 mmol, 0.33 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 4.1 mmol, 0.38 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 1N, 4 ml | [OH-].[Na+]
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | HCl | 1N, 15 ml | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (+/−)N-(3,5-Bis-trifluoromethyl-benzyl)-N-[1-(toluene-4-sulfonyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl]-acetamide | FC(C=1C=C(CN(C(C)=O)C2C3=C(N(CCC2)S(=O)(=O)C2=CC=C(C=C2)C)C=CC=C3)C=C(C1)C(F)(F)F)(F)F | C28H26F6N2O3S
